US09315521B2
To a solution of (4-methyl-1,3-thiazol-5-yl)methanol (2.5 g, 19.4 mmol) in anhydrous dichloromethane (100 mL) was added dropwise tribromophosphane (2.00 mL, 21.3 mmol). The mixture was stirred at room temperature for 3.5 hours. Dichloromethane was evaporated, and the residue was then dried in vacuo, affording 5-(bromomethyl)-4-methyl-1,3-thiazole hydrobromide. The product was used for the next step without further purification.

reactant | (4-methyl-1,3-thiazol-5-yl)methanol | 19.4 mmol, 2.5 g | CC=1N=CSC1CO | C5H7NOS
reactant | tribromophosphane | 21.3 mmol, 2.00 mL | BrP(Br)Br | Br3P
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 5-(bromomethyl)-4-methyl-1,3-thiazole hydrobromide | Br.BrCC1=C(N=CS1)C | InChI=1S/C5H6BrNS.BrH/c1-4-5(2-6)8-3-7-4;/h3H,2H2,1H3;1H
